US06251926B1
Lithium hydroxide monohydrate (54.9 mg) was added to a solution of ethyl E-8-phenyl-8-[4-(5-phenyl-1,2,4-oxadiazol-3-ylmethoxy)benzyloxyimino]octanoate (236 mg) in tetrahydrofuran (6 ml)-water (4 ml)-ethanol (4 ml) and stirred at room temperature for 4 hours. 1N hydrochloric acid (1.4 ml) was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was recrystallized from ethyl acetate-hexane to obtain E-8-phenyl-8-[4-(5-phenyl-1,2,4-oxadiazol-3-ylmethoxy)benzyloxyimino]octanoic acid (208 mg, yield 93%) as colorless crystals. m.p. 76-77° C.

reactant | Lithium hydroxide monohydrate | 54.9 mg | O.[OH-].[Li+]
reactant | ethyl E-8-phenyl-8-[4-(5-phenyl-1,2,4-oxadiazol-3-ylmethoxy)benzyloxyimino]octanoate | 236 mg | C1(=CC=CC=C1)/C(/CCCCCCC(=O)OCC)=N/OCC1=CC=C(C=C1)OCC1=NOC(=N1)C1=CC=CC=C1 | C32H35N3O5
reactant | water | 4 ml | O | H2O
reactant | hydrochloric acid | 1N, 1.4 ml | Cl | ClH
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | E-8-phenyl-8-[4-(5-phenyl-1,2,4-oxadiazol-3-ylmethoxy)benzyloxyimino]octanoic acid | 208 mg, yield 93% | C1(=CC=CC=C1)/C(/CCCCCCC(=O)O)=N/OCC1=CC=C(C=C1)OCC1=NOC(=N1)C1=CC=CC=C1 | C30H31N3O5
